US07262212B2
A mixture of (4-benzylpiperazin-1-yl)-(4-trifluoromethylphenyl)amine prepared in Reference Example 108 and 10% palladium/carbon (0.53 g) in ethanol (50 ml) was stirred at room temperature under an atmospheric pressure of hydrogen for 6 hours, and then at 60° C. for 10 hours. After the catalyst was removed by filtration through Celite, 10% palladium/carbon (0.53 g) was added to the filtrate, and the mixture was stirred at 60° C. under an atmospheric pressure of hydrogen for 8 hours. After the catalyst was removed by filtration through Celite, the filtrate was concentrated under reduced pressure. The resulting solid was dried in vacuo to afford piperazin-1-yl-(4-trifluoromethylphenyl)amine (1.76 g, yield 90%) as a colorless crystalline powder.

reactant | (4-benzylpiperazin-1-yl)-(4-trifluoromethylphenyl)amine | C(C1=CC=CC=C1)N1CCN(CC1)NC1=CC=C(C=C1)C(F)(F)F | C18H20F3N3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.53 g | [Pd] | Pd
product | piperazin-1-yl-(4-trifluoromethylphenyl)amine | 1.76 g, yield 90% | N1(CCNCC1)NC1=CC=C(C=C1)C(F)(F)F | C11H14F3N3
